US07449457B2
Preparation of 5-Fluoro-2-[(5-methylthiopyridin-2-yl)-carbonylamino]-N-(5-chloropyridin-2-yl)benzamide
A mixture of 5-fluoro-2-[(5-fluoropyridin-2-yl)-carbonylamino]-N-(5-chloropyridin-2-yl)benzamide (502 mg, 1.29 mmol), DMSO (4 mL) and sodium thiomethoxide (95 mg, 1.36 mmoL) was heated to 50° C. for 18 h. The reaction was cooled, added water, filtered, and dried. The solid was triturated with CH2Cl2 and filtered to give the title compound as a white solid (461 mg, 86%).

reactant | 5-fluoro-2-[(5-fluoropyridin-2-yl)-carbonylamino]-N-(5-chloropyridin-2-yl)benzamide | 1.29 mmol, 502 mg | FC=1C=CC(=C(C(=O)NC2=NC=C(C=C2)Cl)C1)NC(=O)C1=NC=C(C=C1)F | C18H11ClF2N4O2
reactant | DMSO | 4 mL | CS(=O)C | C2H6OS
reactant | sodium thiomethoxide | 95 mg | C[S-].[Na+]
solvent | water | O | H2O
product | 5-Fluoro-2-[(5-methylthiopyridin-2-yl)-carbonylamino]-N-(5-chloropyridin-2-yl)benzamide | 461 mg, 86% | FC=1C=CC(=C(C(=O)NC2=NC=C(C=C2)Cl)C1)NC(=O)C1=NC=C(C=C1)SC | C19H14ClFN4O2S
